US07601870B2
1t (4-Bromo-2,6-dimethyl-phenyl)-carbamic acid ethyl ester
4-Bromo-2,6-dimethyl-aniline (10 g), ethyl chloroformate (5.4 g) and potassium carbonate (10.4 g) were mixed in tetrahydrofuran (100 mL) and heated to reflux for 16 hours, cooled, filtered and concentrated in vacuo. Heptane (200 mL) was added to the crude product, which was stirred for 30 minutes at 70° C. The mixture was filtered and concentrated in vacuo to furnish 12 g (88% yield) of the title compound as a solid. LC-MS (m/z) 273 (MH+); tR=2.95, (UV, ELSD) 99%, 99%. 1H NMR (500 MHz, CDCl3): 1.31 (t, 3H), 2.24 (s, 6H), 4.19 (q, 2H), 5.92 (b, 1H), 7.22 (s, 2H).

reactant | 4-Bromo-2,6-dimethyl-aniline | 10 g | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
reactant | ethyl chloroformate | 5.4 g | ClC(=O)OCC | C3H5ClO2
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (4-Bromo-2,6-dimethyl-phenyl)-carbamic acid ethyl ester | 12 g, 88% yield | C(C)OC(NC1=C(C=C(C=C1C)Br)C)=O | C11H14BrNO2
